US08648089B2
3-bromo-6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indole
The target compound was prepared as in Example 1 using 6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indole (70 mg, 0.222 mmol) and 4-bromopyridine hydrochloride (40 mg, 0.222 mmol).

reactant | 6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indole | 0.222 mmol, 70 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C2C=CN(C2=C1)C1=CC=NC=C1 | C19H13N3O2
reactant | 4-bromopyridine hydrochloride | 0.222 mmol, 40 mg | Cl.BrC1=CC=NC=C1
product | 3-bromo-6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indole | BrC1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=NC=C1 | C19H12BrN3O2
